Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Right lower extremity claudication
 
Major Surgical or Invasive Procedure:
Right redo femoral to below-the-knee popliteal bypass with 
CryoVein, and left arm exploration.

 
History of Present Illness:
Mrs. ___ is a ___ year old woman who was originally 
seen in ___ for severe ischemia of her right leg. 
She is s/p right common iliac to profunda femoris bypass using 
her L greater saphenous vein by Dr. ___ in ___ due to 
occluded SFA and popliteal artery. She currently walks about ___ 
yards before she gets right leg pain, and says that this is 
preventing her from functioning at work.

On exam, she only has monophasic pulses as before on that side, 
but she has a good triphasic pulses on the left.
 
Past Medical History:
PMH: intracranial aneurysm (age ___
DVT w/ pregnancy
sickle cell trait  

PSH: intracranial aneurysm/AVM rpr, R fem-pop ___, 
thyroidectomy, R Common iliac-profunda bypass w/ PTFE
 
Social History:
___
Family History:
No relevant family history
 
Physical Exam:
Discharge PE ___
Vitals: 99.2 99.2 84 115/69 18 96% RA
HEENT: scleral anicteric, no lymphadenopathy, flat JVP
CHEST: Clear to auscultation bilaterally
CARDIAC: regular rate and rhythm 
ABDOMEN:  soft, NT, ND, no HSM,  no masses
MUSCULOSKELETAL:  normal
NEUROL:  no focal deficits 
EXTREMITIES: warm and well perfused, right leg with staples, 
incisions healing well with no erythema, ecchymosis 
PULSES: R:P/P/D/D L: P/P/P/D 
 
Pertinent Results:
Pertinent Labs:
___ 04:52AM BLOOD WBC-9.4 RBC-3.51* Hgb-10.7*# Hct-30.7* 
MCV-88 MCH-30.5 MCHC-34.9 RDW-15.0 RDWSD-48.0* Plt ___
___ 04:52AM BLOOD Glucose-97 UreaN-16 Creat-0.7 Na-142 
K-3.6 Cl-107
___ 04:52AM BLOOD Calcium-8.8 Phos-3.3 Mg-2.0
___ 04:52AM BLOOD %HbA1c-5.6 eAG-114

CXR ___:
IMPRESSION:  
In comparison with the study of ___, the cardiac 
silhouette is within normal limits and there is no evidence of 
acute pneumonia, vascular congestion, or pleural effusion. 

___ ECG:
Normal sinus rhythm. Intra-atrial conduction abnormality. Minor 
non-specific T wave flattening diffusely. Compared to the 
previous tracing of ___ the T wave flattening is more 
prominent. 
 
Brief Hospital Course:
Mrs. ___ is a ___ year old woman who is s/p a bypass 
from her right common iliac to her profunda femoris due to 
occluded SFA and popliteal artery in ___, who presented with 
worsening right leg claudication. She underwent a right redo 
femoral to below-the-knee popliteal bypass with CryoVein, and 
left arm exploration on ___. Her left arm vasculature was 
sufficient in size in the upper arm and in the midforearm but 
there was a significant portion of the vessel that appeared 
narrow and sclerotic therefore it was unusable and a Cyrovein 
was used for a conduit. The skin on her arm and right leg was 
closed with stables. She tolerated the procedure well with no 
complications. On POD1 her home medications were restarted and 
she was tolerating a normal diet with no nausea or vomiting. Her 
pain was well controlled. Her incision sites were clean, dry and 
intact and her feet were warm and well perfused. Distal 
extremity pulses were dopplerable bilaterally. On POD2 she was 
out of bed and ambulating, her pulse exam was stable and her 
wound dressings were removed. On POD3 she was walking around, 
she had a ___ evaluation which concluded that she could be 
discharged home without ___ followup. She was discharged with 
appropriate instructions and follow- up appointments.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin EC 81 mg PO DAILY 
2. Citalopram 20 mg PO DAILY 
3. Hydrochlorothiazide 25 mg PO DAILY 
4. Levothyroxine Sodium 112 mcg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H  
2.  Atorvastatin 20 mg PO DAILY  
3.  OxyCODONE (Immediate Release) ___ mg PO Q3H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth Q4H PRN Disp #*18 Tablet 
Refills:*0 
4.  Senna 8.6 mg PO BID:PRN constip  
5.  Aspirin EC 81 mg PO DAILY  
6.  Citalopram 20 mg PO DAILY  
7.  Hydrochlorothiazide 25 mg PO DAILY  
8.  Levothyroxine Sodium 112 mcg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Worsening claudication pain and occlusion of previous Rt CIA to 
Rt Profunda bypass PTFE bypass graft. 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
WHAT TO EXPECT:
1. It is normal to feel tired, this will last for ___ weeks 
•You should get up out of bed every day and gradually increase 
your activity each day 
•Unless you were told not to bear any weight on operative foot: 
you may walk and you may go up and down stairs 
•Increase your activities as you can tolerate- do not do too 
much right away!
2. It is normal to have swelling of the leg you were operated 
on:
•Elevate your leg above the level of your heart (use ___ 
pillows or a recliner) every ___ hours throughout the day and at 
night
•Avoid prolonged periods of standing or sitting without your 
legs elevated
3. It is normal to have a decreased appetite, your appetite will 
return with time 
•You will probably lose your taste for food and lose some 
weight 
•Eat small frequent meals
•It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
•To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

MEDICATION:
•Take aspirin as instructed 
•Follow your discharge medication instructions

ACTIVITIES:
•No driving until post-op visit and you are no longer taking 
pain medications
•Unless you were told not to bear any weight on operative foot: 

•You should get up every day, get dressed and walk
•You should gradually increase your activity
•You may up and down stairs, go outside and/or ride in a car
•Increase your activities as you can tolerate- do not do too 
much right away!
•No heavy lifting, pushing or pulling (greater than 5 pounds) 
until your post op visit 
•You may shower (unless you have stitches or foot incisions) no 
direct spray on incision, let the soapy water run over incision, 
rinse and pat dry
•Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing 
over the area that is draining, as needed

CALL THE OFFICE FOR: ___
•Redness that extends away from your incision
•A sudden increase in pain that is not controlled with pain 
medication
•A sudden change in the ability to move or use your leg or the 
ability to feel your leg
•Temperature greater than 100.5F for 24 hours
•Bleeding, new or increased drainage from incision or white, 
yellow or green drainage from incisions
 
Followup Instructions:
___